US07579473B2
To a 0° C. solution of 3-fluoro-4-[6-methoxy-7-(1-methyl-piperidin-4-ylmethoxy)-quinolin-4-yloxy]-phenylamine (66 mg, 0.13 mmol) and Et3N (0.34 mL) in CH2Cl2 (6 mL) was added slowly ethyl oxalyl chloride (98 mg). The reaction mixture was stirred at rt for 30 min, then diluted with CH2Cl2 and washed with sat. aqueous NaHCO3. After dried over MgSO4 and concentrated, the crude ethyl oxamate was reacted with phenethylamine (80 mg, 0.64 mmol) at 80° C. for 2 h. Purification by HPLC gave product, N-{3-fluoro-4-[6-methoxy-7-(1-methyl-piperidin-4-ylmethoxy)-quinolin-4-yloxy]-phenyl}-N′-phenethyl-oxalamide (52 mg, 68% yield). 1H NMR (400 MHz) δ 9.38 (br s, 1H), 8.48 (d, J=5.2 Hz, 1H), 7.83 (dd, J=11.7, 2.6 Hz, 1H), 7.59 (t, J=6.2 Hz, 1H), 7.55 (s, 1H), 7.40-7.20 (8H), 6.39 (d, J=5.3 Hz, 1H), 4.06 (d, J=6.6 Hz, 2H), 4.04 (s, 3H), 3.67 (q, J=6.8 Hz, 2H), 2.98 (br d, J=11.5 Hz, 2H), 2.92 (t, J=7.0 Hz, 2H), 2.34 (s, 3H), 2.10-1.80 (m, 5H), 1.60-1.54 (m, 2H).

reactant | 3-fluoro-4-[6-methoxy-7-(1-methyl-piperidin-4-ylmethoxy)-quinolin-4-yloxy]-phenylamine | 0.13 mmol, 66 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)N | C23H26FN3O3
reactant | Et3N | 0.34 mL | CCN(CC)CC | C6H15N
reactant | ethyl oxamate | C(C(=O)N)(=O)OCC | C4H7NO3
reactant | phenethylamine | 0.64 mmol, 80 mg | C(CC1=CC=CC=C1)N | C8H11N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N-{3-fluoro-4-[6-methoxy-7-(1-methyl-piperidin-4-ylmethoxy)-quinolin-4-yloxy]-phenyl}-N′-phenethyl-oxalamide | 52 mg, 68% yield | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)NC(C(=O)NCCC1=CC=CC=C1)=O | C33H35FN4O5
